US05508425
Production of 2-n-butyl-5-chlor-1H-imidazole
2-n-Butyl-3,5-dihydroimidazol-4-one (14.02 g, 0.1 mol) was added in portions for 15 minutes to POCl3 (50 ml) at 95° C. The solution was heated for 2 hours at 100° C., cooled and poured on 400 g of ice. The mixture was adjusted to pH 7 with 255 ml of 30 percent sodium hydroxide solution and extracted three times with 500 ml of ethyl acetate each. The combined organic phases were dried with MgSO4, filtered and concentrated by evaporation on a Rotavapor. After purification of the residue by column chromatography the title compound (5.52 g, 34.7 percent) was obtained in a high yield (>98 percent, according to GC and 1H-NMR). The product had a melting point of 85° to 87° C. Other data regarding the product was:

reactant | 2-n-Butyl-3,5-dihydroimidazol-4-one | 0.1 mol, 14.02 g | C(CCC)C1=NCC(N1)=O | C7H12N2O
reactant | sodium hydroxide | 255 ml | [OH-].[Na+]
reactant | POCl3 | 50 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-n-butyl-5-chlor-1H-imidazole | C(CCC)C=1NC(=CN1)Cl | C7H11ClN2
